US07582767B2
N-[7-(4-piperidinyl)oxy-1-benzofuran-5-yl]-2-methoxy-5-methylbenzenesulfonamide
Hydrolysis of 7-iodo-N-(2-methoxy-5-methylphenyl)-1-benzofuran-5-sulfonamide in alkaline solution using copper as catalyst results in 7-hydroxy-N-(2-methoxy-5-methylphenyl)-1-benzofuran-5-sulfonamide. Reaction with a methyl carbamate protected mesylate of 4-hydroxypiperidine, results in methyl 4-[(5-{[(2-methoxy-5-methylphenyl)amino]sulfonyl}-1-benzofuran-7-yl)oxy]piperidine-1-carboxylate, which is hydrolysed in alkaline solution giving the title compound.

reactant | 7-iodo-N-(2-methoxy-5-methylphenyl)-1-benzofuran-5-sulfonamide | IC1=CC(=CC=2C=COC21)S(=O)(=O)NC2=C(C=CC(=C2)C)OC | C16H14INO4S
reactant | methyl carbamate | C(N)(OC)=O | C2H5NO2
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
reactant | 7-hydroxy-N-(2-methoxy-5-methylphenyl)-1-benzofuran-5-sulfonamide | OC1=CC(=CC=2C=COC21)S(=O)(=O)NC2=C(C=CC(=C2)C)OC | C16H15NO5S
catalyst | copper | [Cu] | Cu
solvent | methyl 4-[(5-{[(2-methoxy-5-methylphenyl)amino]sulfonyl}-1-benzofuran-7-yl)oxy]piperidine-1-carboxylate | COC1=C(C=C(C=C1)C)NS(=O)(=O)C=1C=C(C2=C(C=CO2)C1)OC1CCN(CC1)C(=O)OC | C23H26N2O7S
product | N-[7-(4-piperidinyl)oxy-1-benzofuran-5-yl]-2-methoxy-5-methylbenzenesulfonamide | N1CCC(CC1)OC1=CC(=CC=2C=COC21)NS(=O)(=O)C2=C(C=CC(=C2)C)OC | C21H24N2O5S
